2191-03-04 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -traumatic foley placement-removed and replaced with triple lumen
   -hypotension-treated with fluid boluses with good response
   -Left subclavian placed
   -Plastics aspirated serosanguinous drainge from parietal scalp.
   -ENT following concern for Nec. Fasc.
 EKG - At [**2191-3-3**] 10:45 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle weakness
   Last dose of Antibiotics:
   Vancomycin - [**2191-3-4**] 12:00 AM
   Clindamycin - [**2191-3-4**] 02:00 AM
   Azithromycin - [**2191-3-4**] 03:27 AM
   Ceftazidime - [**2191-3-4**] 05:31 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-4**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 81 (80 - 106) bpm
   BP: 85/40(51) {83/40(51) - 117/51(68)} mmHg
   RR: 11 (11 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    518 mL
                                                                  5,391 mL
   PO:
             TF:
   IVF:
                                                                    518 mL
                                                                  5,391 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,805 mL
   Urine:
   1,805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    518 mL
                                                                  3,586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 550 (550 - 570) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: ///20/
   Ve: 14.2 L/min
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   304 K/uL
   11.2 g/dL
   185 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.3 mEq/L
   54 mg/dL
   103 mEq/L
   135 mEq/L
   31.8 %
   22.3 K/uL
        [image002.jpg]
                             [**2191-3-4**]  04:30 AM
   WBC
   22.3
   Hct
   31.8
   Plt
   304
   Cr
   2.1
   Glucose
   185
   Other labs: PT / PTT / INR:18.2/43.8/1.7, Differential-Neuts:71.0 %,
   Band:21.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:1.0 %, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   This is a 79 y/o M with preseptal cellulitis and likely pneumonia
   .
   # Resp Distress: Most likely external compression from infection
   - intubated for airway protection
   - continue PS with minimal sedation for now
   - routine vent care
   -f/u ABG
   .
   # Preseptal cellulitis: Most common pathogens for this pt are strep and
   staph, and anaerobes. He is not immunocompromised and less concern for
   fungal etiologies. Finally, given spread over last hour there is also
   concern for clostridium as well
   - low threshhold to repeat CT scan to eval for abscess, but would
   prefer CT with contrast if renal failure improves
   - erythromycin over the skin
   - nasal decongestants PRN
   - head of bed elevated, greater than 45%, cold gauze
   - change ABX to ceftaz, flagyl, linezolid
   - will hold on further clinda for now (did receive one dose)
   - get non-contrast maxillofacial CT
   -trend lactate, McvO2
   - d/w ID re: narrowing coverage
   -Trasfuse 2 U FFP in seting of possible OR
   .
   # PNA: Based on fever, infiltrate on CXR and cough, there is also
   suspicion for pneumonia. per wife, he has never had any aspiration
   events. I am more concerned for CAP
   - Continue abx as per above
   - albuterol/atrovent nebs PRN
   -Follow cx
   .-urine legionella
   # ARF: baseline 1.0 now 1.9. I suspect prerenal azotemia at this point
   given hx and exam, Urine lytes pre renal
   - renally dose meds
   - send urine lytes
   - trend cre
   .
   # Traumatic foley: replaced on admission night and bladder irrigated
   - continue bladder irrigation overnight
   .
   # Lethargy: I suspect a combination of infection and old CVA. No neck
   stiffness/meningeal signs
   - continue to monitor and w/u infectious etiologies
   .
   # Hypertension: Normally BP runs high, but tonight has been lower in
   low 100's. Given concern for progressing infection, will hold off on BP
   meds
   - hold Toprol, nifedipine, and lisinopril for now
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access:
   - peripherals X 2
   - d/w attd regarding CVL; however, given site of infection hesitant to
   put in IJ or subclavian
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-3-3**] 10:11 PM
   18 Gauge - [**2191-3-3**] 10:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: